US04305868
N-(2,2-dimethyl-3-hydroxypropyl) stearamide
In a 500 ml, three-neck, round-bottom flask equipped with a thermometer, stirrer and a Stark and Dean trap with condenser were placed 119.4 g of methyl stearate, 41 g of 3-amino-2,2-dimethylpropanol and 3 g of potassium tert-butoxide. The mixture was heated to 190° C., and the methanol distilled off. The reaction mixture was dissolved in hot isopropanol and filtered. On cooling, the product crystallized, and after filtration and drying it melted at 44° C. IR showed an ester carbonyl. The pure product was obtained by washing with hot hexane. The pure product melted at 68°-69° C.

reactant | methyl stearate | 119.4 g | C(CCCCCCCCCCCCCCCCC)(=O)OC | C19H38O2
reactant | 3-amino-2,2-dimethylpropanol | 41 g | NCC(CO)(C)C | C5H13NO
reactant | potassium tert-butoxide | 3 g | CC(C)([O-])C.[K+]
product | N-(2,2-dimethyl-3-hydroxypropyl) stearamide | CC(CNC(CCCCCCCCCCCCCCCCC)=O)(CO)C | C23H47NO2
